US04895861
(Step 2) Preparation of 5-Bromo-2-bromomethylnaphthalene
To a stirred suspension of 5-bromo-2-hydroxymethylnaphthalene (7.00 g, 29.5 mmol) in dry Et2O (100 mL) at 0° C. was added PBr3 (8.91 g, 33 mmol) in portions over 20 minutes. The reaction was stirred for an additional 30 minutes at 0° C., diluted with Et2O (100 mL) and quenched with H2O (100 mL) over 20 minutes. The heterogeneous solution was diluted further with H2O (100 mL) and the layers separated. The aqueous phase was extracted with Et2O (1×200 mL) and the combined organic layers were washed with H2O (1×100 mL) and saturated NaCl (1×100 mL), dried (MgSO4) and concentrated in vacuo. The residue was purified by preparative HPLC (SiO2 : gradient hexane/EtOAc) to give the title compound as a white solid (4.60 g, 52%).

reactant | 5-bromo-2-hydroxymethylnaphthalene | 29.5 mmol, 7.00 g | BrC1=C2C=CC(=CC2=CC=C1)CO | C11H9BrO
reactant | PBr3 | 33 mmol, 8.91 g | P(Br)(Br)Br | Br3P
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | Et2O | 100 mL | CCOCC | C4H10O
product | 5-Bromo-2-bromomethylnaphthalene | 4.60 g, 52% | BrC1=C2C=CC(=CC2=CC=C1)CBr | C11H8Br2
